US08877744B2
The reaction of (R)-5-(3′,5′-dichloro-4-fluoro-biphenyl-3-yl)-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (250 mg, 578 μmol) with Lawesson's reagent (187 mg, 463 μmol) in 1,4-dioxane (19 ml) yielded the (R)-5-(3′,5′-dichloro-4-fluoro-biphenyl-3-yl)-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione (202 mg, 78% yield) as a white foam. MS (ISN): m/z=446.0 [M−H]− and 447.9 [M+2-H]−.

reactant | (R)-5-(3′,5′-dichloro-4-fluoro-biphenyl-3-yl)-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 578 μmol, 250 mg | ClC=1C=C(C=C(C1)Cl)C1=CC(=C(C=C1)F)[C@]1(NC(COC(C1(F)F)(C)C)=O)C | C20H18Cl2F3NO2
reactant | Lawesson's reagent | 463 μmol, 187 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 19 ml | O1CCOCC1 | C4H8O2
product | (R)-5-(3′,5′-dichloro-4-fluoro-biphenyl-3-yl)-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 202 mg, 78% yield | ClC=1C=C(C=C(C1)Cl)C1=CC(=C(C=C1)F)[C@]1(NC(COC(C1(F)F)(C)C)=S)C | C20H18Cl2F3NOS
